US04742052
To a solution of oxalyl chloride (2 ml) in dry dichloromethane (50 ml) was added dropwise dry dimethyl sulfoxide (3.4 ml) at -60° C. and the resulting mixture was stirred for 10 minutes. To the mixture was added a solution of N-p-nitrobenzyloxycarbonyl-4-hydroxymethylpiperidine (5.88 g) in dry dichloromethane (40 ml) at the same temperature. After stirring for 15 minutes, triethylamine (14 ml) was added to the mixture. The reaction mixture was stirred at -60° C. for 5 minutes and at room temperature for 30 minutes, and diluted with dichloromethane. The reaction mixture was washed successively with water, dilute hydrochloric acid and again water, dried over anhydrous sodium sulfate and evaporated to give N-p-nitrobenzyloxycarbonyl-4-formylpiperidine.

reactant | oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 3.4 ml | CS(=O)C | C2H6OS
reactant | N-p-nitrobenzyloxycarbonyl-4-hydroxymethylpiperidine | 5.88 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)CO)C=C1 | C14H18N2O5
reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-p-nitrobenzyloxycarbonyl-4-formylpiperidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)C=O)C=C1 | C14H16N2O5
